US05629254
Synthesis of 3-(2-biphenylyl)-2-ethylpropionyl chloride
A 100-ml three-necked round flask equipped with a stirring bar, a Dimroth condenser, a thermometer and a NaOH trap was charged with 13.3 g (52.4 mmol) of 3-(2-biphenylyl)-2-ethylpropionic acid and 25.9 ml (355 mmol) of thionyl chloride, and the resulting mixture was stirred under reflux for 2.5 hours under a nitrogen atmosphere. After the reaction was completed, the unreacted thionyl chloride was distilled off under reduced pressure to obtain 15.2 g of a crude product as a yellow-orange liquid. The thus obtained acid chloride was used in the next reaction without further purification.

reactant | 3-(2-biphenylyl)-2-ethylpropionic acid | 52.4 mmol, 13.3 g | C1(=C(C=CC=C1)CC(C(=O)O)CC)C1=CC=CC=C1 | C17H18O2
reactant | thionyl chloride | 355 mmol, 25.9 ml | S(=O)(Cl)Cl | Cl2OS
product | 3-(2-biphenylyl)-2-ethylpropionyl chloride | 15.2 g | C1(=C(C=CC=C1)CC(C(=O)Cl)CC)C1=CC=CC=C1 | C17H17ClO
